* C:\Users\jared\Documents\Graduate Reserach\LTSpice\Flyback\Draft1.asc
V1 N001 0 1
M1 N004 0 0 0 NMOS
L1 N001 N004 1
L2 0 N002 2
D1 N002 N003 D
C1 N003 0 2
R1 N003 0 1
.model D D
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1
.backanno
.end
